US06166006
A solution of ethyl 6-bromo-2H-thiochromene-3-carboxylate (1.00 g, 3.34 mmol), 4-methylphenyl borate (0.55 g, 4.01 mmol) and tetrakistriphenylphosphine palladium (0.19 g, 0.167 mmol) in 2M sodium carbonate (3.5 ml), ethanol (3 ml) and toluene (25 ml) was stirred at 80° C. for 24 hours. To the mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with 0.5N hydrochloric acid and saturated brine, and dried with magnesium sulfate. The solvent was evaporated, and the residue was purified with silica gel column chromatography [hexane:ethyl acetate (5:1)] to give ethyl 6-(4-methylphenyl)-2H-thiochromene-3-carboxylate (1.02 g, 99%) as yellow powder.

reactant | ethyl 6-bromo-2H-thiochromene-3-carboxylate | 3.34 mmol, 1.00 g | BrC=1C=C2C=C(CSC2=CC1)C(=O)OCC | C12H11BrO2S
reactant | 4-methylphenyl borate | 4.01 mmol, 0.55 g | B(OC1=CC=C(C=C1)C)([O-])[O-]
reactant | water | O | H2O
solvent | sodium carbonate | 2M, 3.5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 6-(4-methylphenyl)-2H-thiochromene-3-carboxylate | 1.02 g, 99% | CC1=CC=C(C=C1)C=1C=C2C=C(CSC2=CC1)C(=O)OCC | C19H18O2S
